US04172197
To 8 ml of methylene chloride were added 0.37 g of phenylsulfinylacetic acid of the R form ([α]D20 :+183°, C=1.00, ethanol) and 0.41 g of dicyclohexylcarbodiimide, and the mixture was agitated at room temperature for 1.5 hours. Then, a solution consisting of 0.69 g of 7-amino-3-(2-methyl-1,3,4-thiadiazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid, 0.28 ml of triethylamine and 8 ml of methylene chloride was added to the above mixture, and the resulting mixture was agitated at room temperature overnight. The reaction mixture was filtered, and the filtrate was post-treated in the same manner as described in Example 19 to obtain 0.17 g of 7-(phenylsulfinylacetamido)-3-(2-methyl-1,3,4-thiadiazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid of the R form, the IR and NMR spectra of which were found to be in agreement with those of the intended product.

reactant | phenylsulfinylacetic acid | 0.37 g | C1(=CC=CC=C1)S(=O)CC(=O)O | C8H8O3S
reactant | dicyclohexylcarbodiimide | 0.41 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 7-amino-3-(2-methyl-1,3,4-thiadiazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 0.69 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(S2)C)C(=O)O)C1=O | C11H12N4O3S3
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | 7-(phenylsulfinylacetamido)-3-(2-methyl-1,3,4-thiadiazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 0.17 g | C1(=CC=CC=C1)S(=O)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(S2)C)C(=O)O)C1=O | C19H18N4O5S4
